US07713993B2
Synthesis of (E)-3-[2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid
Lithium hydroxide monohydrate (240 mg) was added to a mixed solution of 2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (CAS No. 870851-52-8, 1.03 g) and triethyl phosphonoacetate (1.09 g) in THF (4 mL) and ethanol (1 mL), and the reaction solution was stirred at room temperature for five hours. A 2 N sodium hydroxide solution (4 mL) was added to the reaction solution, and the reaction solution was stirred for 17 hours. 2 N aqueous hydrochloric acid (4 mL) was added to the reaction solution, and the reaction solution was stirred at room temperature for 30 minutes. Then, the precipitated solid was collected by filtration and washed with water and an ether. The resulting solid was air-dried to obtain 1.03 g of the title compound. The property value of the compound is as follows.

reactant | Lithium hydroxide monohydrate | 240 mg | O.[OH-].[Li+]
reactant | 2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | FC1=C(C=O)C=C(C(=C1)N1C=NC(=C1)C)OC | C12H11FN2O2
reactant | sodium hydroxide | 2 N, 4 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 N, 4 mL | Cl | ClH
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (E)-3-[2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 1.03 g | FC1=C(C=C(C(=C1)N1C=NC(=C1)C)OC)/C=C/C(=O)O | C14H13FN2O3
